US08492582B2
A water (0.60 mL) solution of sodium dihydrogen phosphate dihydrate (0.50 g) was added to an acetonitrile (1.6 mL) suspension of the obtained 7-(benzyloxy)-2,3-dihydrobenzo[1,4]dioxine-6-carbaldehyde (0.32 g), and a 30% hydrogen peroxide solution (0.20 mL) and a water (0.30 mL) solution of sodium chlorite (0.17 g) were sequentially added thereto under ice-cooling, followed by stirring at the same temperature for 15 minutes and then at room temperature for 1 hour and 30 minutes. The reaction mixture was adjusted to a pH of 1.4 with 1 mol/L hydrochloric acid, and water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 0.34 g of 7-(benzyloxy)-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid as a white solid.

reactant | sodium dihydrogen phosphate dihydrate | 0.50 g | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | 7-(benzyloxy)-2,3-dihydrobenzo[1,4]dioxine-6-carbaldehyde | 0.32 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(OCCO2)C1)C=O | C16H14O4
reactant | hydrogen peroxide | 0.20 mL | OO | H2O2
reactant | sodium chlorite | 0.17 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 0.30 mL | O | H2O
solvent | acetonitrile | 1.6 mL | C(C)#N | C2H3N
solvent | water | 0.60 mL | O | H2O
product | 7-(benzyloxy)-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid | 0.34 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(OCCO2)C1)C(=O)O | C16H14O5
